US03984336
4,9-Dithiadodecanedinitrile was prepared according to the procedure of Example 1 using 1,4-butanedithiol (20.0 g; 0.16 moles), acrylonitrile (17.0 g; 0.32 moles) and benzyltrimethylammonium hydroxide (40% in methanol; 1 ml) as the catalyst.

reactant | 1,4-butanedithiol | 0.16 moles, 20.0 g | C(CCCS)S | C4H10S2
reactant | acrylonitrile | 0.32 moles, 17.0 g | C(C=C)#N | C3H3N
reactant | benzyltrimethylammonium hydroxide | 1 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 4,9-Dithiadodecanedinitrile | C(CCSCCCCSCCC#N)#N | C10H16N2S2
